US09079866B2
5-(2′-{[3-(Cyclohexylsulfonyl)propyl]sulfonyl}-3-fluorobiphenyl-4-yl)pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 1-bromo-2-((3-(cyclohexylsulfonyl)propyl)sulfonyl)benzene and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C25H28FN3O4S2, 517.15; m/z found, 518.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.59-8.51 (d, J=1.4, 2H), 8.20-8.14 (dd, J=8.0, 1.3, 1H), 7.82-7.76 (m, 1H), 7.72-7.67 (m, 1H), 7.59-7.52 (m, 1H), 7.51-7.46 (dd, J=7.7, 1.3, 1H), 7.38-7.31 (m, 2H), 3.16-3.08 (t, J=7.5, 2H), 3.08-3.01 (t, J=7.3, 2H), 2.94-2.82 (m, 1H), 2.07-1.97 (m, 4H), 1.91-1.80 (m, 2H), 1.79-1.62 (d, J=13.0, 1H), 1.48-1.35 (m, 2H), 1.35-1.25 (m, 2H), 1.24-1.12 (m, 1H).

reactant | 1-bromo-2-((3-(cyclohexylsulfonyl)propyl)sulfonyl)benzene | BrC1=C(C=CC=C1)S(=O)(=O)CCCS(=O)(=O)C1CCCCC1 | C15H21BrO4S2
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-(2′-{[3-(Cyclohexylsulfonyl)propyl]sulfonyl}-3-fluorobiphenyl-4-yl)pyrimidin-2-amine | C1(CCCCC1)S(=O)(=O)CCCS(=O)(=O)C1=C(C=CC=C1)C1=CC(=C(C=C1)C=1C=NC(=NC1)N)F | C25H28FN3O4S2
